US04368069
N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-isopropenylbenzenesulfonamide
To a stirred mixture of 0.02 mol of n-butyllithium in 20 ml of anhydrous tetrahydrofuran is added 3.6 g of triphenylmethylphosphonium bromide. The above solution is stirred at room temperature for 4 hours. A slurry of 3.8 g of N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-acetylbenzenesulfonamide in 30 ml of dry tetrahydrofuran is then added dropwise. The resulting mixture is refluxed overnight and allowed to cool to room temperature. The precipitate is removed by suction filtration and washed with methylene chloride. The combined filtrates are then washed with diluted hydrochloric acid, water, dried and evaporated to dryness to yield the desired product.

reactant | n-butyllithium | 0.02 mol | C(CCC)[Li]
reactant | triphenylmethylphosphonium bromide | 3.6 g | [Br-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-acetylbenzenesulfonamide | 3.8 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(C)=O | C15H16N4O6S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-isopropenylbenzenesulfonamide | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=C)C | C16H18N4O5S
